US04329347
6-[3-(3,4-Dichlorophenyl-sulfinyl)-propoxy]-3,4-dihydro-carbostyril
Prepared analogous to Example 123 from 6-[3-(3,4-dichlorophenyl-mercapto)-propoxy]-3,4-dihydro-carbostyril and hydrogen peroxide.

reactant | 6-[3-(3,4-dichlorophenyl-mercapto)-propoxy]-3,4-dihydro-carbostyril | ClC=1C=C(C=CC1Cl)SCCCOC=1C=C2CCC(NC2=CC1)=O | C18H17Cl2NO2S
reactant | hydrogen peroxide | OO | H2O2
product | 6-[3-(3,4-Dichlorophenyl-sulfinyl)-propoxy]-3,4-dihydro-carbostyril | ClC=1C=C(C=CC1Cl)S(=O)CCCOC=1C=C2CCC(NC2=CC1)=O | C18H17Cl2NO3S
